US08058300B2
Step 5: (R)-1-o-Tolyl-ethanol:
(S)-(−)-2-Methyl-CBS-oxazaborolidine (3.72 g, 13.4 mmol) was dissolved in THF (60 mL). Borane methyl sulfide complex (2M in THF; 36.6 mL, 73.3 mmol) was added, and the mixture was cooled to 0° C. 2′-Methylacetophenone (15 g, 111 mmol) in THF (30 mL) was added over 1 hour, and the mixture was then worked-up to yield a liquid with a white precipitate. Hexanes was added, the suspension was filtered to remove the precipitate, and the resulting filtrate was concentrated to give the title compound in 93% e.e.

reactant | (S)-(−)-2-Methyl-CBS-oxazaborolidine | 13.4 mmol, 3.72 g | B1(N2CCC[C@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | Borane methyl sulfide | 73.3 mmol, 2M, 36.6 mL | CSC.B
reactant | 2′-Methylacetophenone | 111 mmol, 15 g | CC1=C(C=CC=C1)C(C)=O | C9H10O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (R)-1-o-Tolyl-ethanol | C1(=C(C=CC=C1)[C@@H](C)O)C | C9H12O
